US07982036B2
A solution of tert-butyl 3-(6-chloropyrimidin-4-ylamino)piperidine-1-carboxylate (0.15 g, 0.48 mmol), 4-phenoxyaniline (0.089 g, 0.48 mmol), Pd(OAc)2 (0.010 g, 0.048 mmol), BINAP (0.014 g, 0.024 mmol) and Cs2CO3 (0.39 g, 1.2 mmol) in degassed toluene (toluene was purged with N2 for 15 min) was heated for 12 h at 100° C. under N2 atmosphere. The reaction mixture was cooled, was diluted with EtOAc (20 mL) and was washed with water (4 mL) and brine (2 mL) and was dried over Na2SO4. The crude product obtained was purified by column chromatography (SiO2, 230-400, chloroform/methanol: 99/1) to give tert-butyl 3-(6-(4-phenoxyphenylamino)pyrimidin-4-ylamino)piperidine-1-carboxylate (90 mg, 40.9%) as a light yellow solid.

reactant | tert-butyl 3-(6-chloropyrimidin-4-ylamino)piperidine-1-carboxylate | 0.48 mmol, 0.15 g | ClC1=CC(=NC=N1)NC1CN(CCC1)C(=O)OC(C)(C)C | C14H21ClN4O2
reactant | 4-phenoxyaniline | 0.48 mmol, 0.089 g | O(C1=CC=CC=C1)C1=CC=C(N)C=C1 | C12H11NO
reactant | BINAP | 0.024 mmol, 0.014 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | Cs2CO3 | 1.2 mmol, 0.39 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
catalyst | Pd(OAc)2 | 0.048 mmol, 0.010 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | tert-butyl 3-(6-(4-phenoxyphenylamino)pyrimidin-4-ylamino)piperidine-1-carboxylate | 90 mg, 40.9% | O(C1=CC=CC=C1)C1=CC=C(C=C1)NC1=CC(=NC=N1)NC1CN(CCC1)C(=O)OC(C)(C)C | C26H31N5O3
